US05534481
15 g (53 mmol) of 3-(N-t-butylsulfamoyl)-1-methyl-4-fluoro-1H-indazole was added to 50 ml of trifluoroacetic acid, and the mixture was stirred overnight. After completion of the reaction, trifluoroacetic acid was distilled off under reduced pressure, and the residue was washed with n-hexane to obtain 10.5 g (yield: 86.8%) of 1-methyl-4-fluoro-1H-indazole-3-sulfonamide (slightly purple crystals). Melting point: 221°-223° C.

reactant | 3-(N-t-butylsulfamoyl)-1-methyl-4-fluoro-1H-indazole | 53 mmol, 15 g | C(C)(C)(C)NS(=O)(=O)C1=NN(C2=CC=CC(=C12)F)C | C12H16FN3O2S
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-methyl-4-fluoro-1H-indazole-3-sulfonamide | 10.5 g, yield: 86.8% | CN1N=C(C2=C(C=CC=C12)F)S(=O)(=O)N | C8H8FN3O2S
